US09024032B2
5-(Benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid (48.0 g, 121 mmol), DIPEA (31.25 g, 242 mmol), and DPPA (49.9 g, 91.2 mmol) were added to t-BuOH (500 mL) at room temperature. The resulting solution was heated to at 80° C. for 16 h. After cooling to room temperature, the mixture was concentrated to give a residue which was purified by silica gel chromatography to afford tert-butyl[5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridin-2-yl]carbamate. 1H NMR δ (400 MHz, CDCl3): 7.70 (d, J=7.6Hz, 1H), 7.58-7.53 (m, 3H), 7.47 (m, 2H), 7.42-7.37 (m, 4H), 7.33-7.20 (m, 3H), 7.18 (d, J=7.2 Hz, 1H), 6.94 (s, 1H), 6.87 (s, 1H), 6.09 (s, 1H), 5.12 (s, 2H), 1.34 (s, 9H). MS (ESI) (M+H)+ 469.

reactant | 5-(Benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid | 121 mmol, 48.0 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C=1C=C(C=CC1)C1=CC=CC=C1)C(=O)O)=O | C25H19NO4
reactant | DIPEA | 242 mmol, 31.25 g | CCN(C(C)C)C(C)C | C8H19N
reactant | DPPA | 91.2 mmol, 49.9 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | t-BuOH | 500 mL | CC(C)(C)O | C4H10O
product | tert-butyl[5-(benzyloxy)-1-(biphenyl-3-yl)-4-oxo-1,4-dihydropyridin-2-yl]carbamate | C(C)(C)(C)OC(NC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)C=1C=C(C=CC1)C1=CC=CC=C1)=O | C29H28N2O4
